US07247639B2
By methods well known in the art 3-dimethylaminopropyl isocyanate is converted into 8-benzyl-3-[2-(4-nitrophenyl)ethyl]-1-(3-dimethylaminopropyl)xanthine. By the method of Example 3, this substance is alkylated with a mixture of 1,2-dichloroethane, sodium carbonate and 2-(ethylamino)ethanol to yield 8-benzyl-1-(3-dimethylaminopropyl)-7-[2-ethyl(2-hydroxyethyl)amino]ethyl-3-[2-(4-nitrophenyl)ethyl]xanthine. By the method of Example 4 this substance is reduced with hydrazine hydrate or hydrogen gas in the presence of a palladium catalyst to yield 3-[2-(4-aminophenyl)ethyl]-8-benzyl-1-(3-dimethylaminopropyl)-7-[2-ethyl(2-hydroxyethyl)amino]ethylxanthine free base. The corresponding hydrochloride salt is then made on exposure to an excess of hydrogen chloride in solution.

reactant | 3-dimethylaminopropyl isocyanate | CN(CCCN=C=O)C | C6H12N2O
reactant | 8-benzyl-3-[2-(4-nitrophenyl)ethyl]-1-(3-dimethylaminopropyl)xanthine | C(C1=CC=CC=C1)C1=NC=2N(C(N(C(C2N1)=O)CCCN(C)C)=O)CCC1=CC=C(C=C1)[N+](=O)[O-] | C25H28N6O4
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-(ethylamino)ethanol | C(C)NCCO | C4H11NO
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 8-benzyl-1-(3-dimethylaminopropyl)-7-[2-ethyl(2-hydroxyethyl)amino]ethyl-3-[2-(4-nitrophenyl)ethyl]xanthine | C(C1=CC=CC=C1)C1=NC=2N(C(N(C(C2N1CCN(CCO)CC)=O)CCCN(C)C)=O)CCC1=CC=C(C=C1)[N+](=O)[O-] | C31H41N7O5
